US08541588B2
5-[2-(Benzyloxy)-5-(trifluoromethoxy)phenyl]-1-methyl-1H-pyrazole
A solution of 1-(benzyloxy)-2-bromo-4-(trifluoromethoxy)benzene (Preparation 535, 3.3 g, 9.5 mmol) and (1-methyl-1H-pyrazol-5-yl)boronic acid (Preparation 403, 1.2 g, 9.5 mmol) 1,4-in dioxane (25 mL) was degassed under argon for 30 minutes. Under argon, (1E,4E)-1,5-Diphenylpenta-1,4-dien-3-one-palladium (3:2) (348 mg, 0.38 mmol) and tricyclohexylphosphine (213 mg, 0.76 mmol) were added followed by the dropwise addition of a degassed solution of tripotassium phosphate (4 g, 19 mmol) in water (12.6 mL). Reaction mixture was refluxed for 16 hours before cooling to room temperature and filtering through Celite™. The filtrate was concentrated in vacuo and the residue was diluted with ethyl acetate (100 mL). The organic extract was washed with water, saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. Purification by silica gel column chromatography eluting with ethyl acetate:hexane (1:9, by volume) afforded the title compound, 2.3 g, 70% yield.

reactant | 1-(benzyloxy)-2-bromo-4-(trifluoromethoxy)benzene | 9.5 mmol, 3.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC(F)(F)F)Br | C14H10BrF3O2
reactant | (1-methyl-1H-pyrazol-5-yl)boronic acid | 9.5 mmol, 1.2 g | CN1N=CC=C1B(O)O | C4H7BN2O2
reactant | tricyclohexylphosphine | 0.76 mmol, 213 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | tripotassium phosphate | 19 mmol, 4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | water | 12.6 mL | O | H2O
catalyst | (1E,4E)-1,5-Diphenylpenta-1,4-dien-3-one palladium | 0.38 mmol, 348 mg | C1(=CC=CC=C1)\C=C\C(\C=C\C1=CC=CC=C1)=O.[Pd]
product | 5-[2-(Benzyloxy)-5-(trifluoromethoxy)phenyl]-1-methyl-1H-pyrazole | 70% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC(F)(F)F)C1=CC=NN1C | C18H15F3N2O2
